*****************************************************************
* NXP BUK9Y25-60E
*
* Polarity N-Channel
* Ratings 60V/2.500000E-002OHMS/33.7729071263679A
*
* Date Created Tue Feb 05 07:38:23 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y25-60E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 60000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.016528830776971 TC=0.00484693540517344,1.33410282630733E-05
RBD 9 4 0.00202243616620992 TC=0.00484693540517344,1.33410282630733E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 9.67207866147959e-10
RG 1 2 3.01663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1106.5
+ -16	1105.63
+ -10	1102.39
+ -5	1093.43
+ -4	1088.13
+ -3	1074.17
+ -2	951.947
+ -1	580.866
+ -0.5	385.46
+ -0.2	269.063
+ -0.1	266.738
+ 0	215.87402
+ 0.1	180.2804
+ 0.2	180.0344
+ 0.5	161.18796
+ 1	140.21424
+ 2	111.67664
+ 3	100.87821
+ 4	96.02511
+ 5	93.14282
+ 6	91.15582
+ 8	88.37482
+ 10	86.31558
+ 12	84.55152
+ 15	82.18284
+ 20	78.74181
+ 30	73.42608
+ 50	67.2603



.MODEL MINT NMOS(Vto=2.14766155394203 Kp=8.929557e+001 Nfs=550000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.97053390739096e-13
+ N=1 M=0.59 VJ=0.61 Fc=0.5 Cjo=4.3297068e-10 Tt=1.1248e-08)

.ENDS

